US06727264B1
N-(4-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)BUTANAMIDE:
Prepared by Procedure F and Scheme R, without HOAc, using 9-ethyl-9H-carbazole-3-carbaldehyde and N-[4-(4-piperidinyl)phenyl]butanamide: ESMS m/e: 454.2 (M+H)+.

reactant | 9-ethyl-9H-carbazole-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
reactant | N-[4-(4-piperidinyl)phenyl]butanamide | N1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C15H22N2O
solvent | HOAc | CC(=O)O | C2H4O2
product | N-(4-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)BUTANAMIDE | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C30H35N3O
